US08071591B2
A mixture of (1R,3R)-N-[3-(3-pyridyl)cyclopentyl]phthalimide (3.00 g, 10.3 mmol) and hydrazinemonohydorate (1.00 mL, 20.5 mmol) in EtOH (40 mL) was stirred at room temperature for 1 h. The reaction mixture was filtered followed by the removal of solvent. The crude product was purified by column chromatography (NH, CHCl3/MeOH=50/1) to yield (1R,3R)-3-(3-pyridyl)cyclopentylamine (1.63 g, 97%) as yellow oil.

reactant | (1R,3R)-N-[3-(3-pyridyl)cyclopentyl]phthalimide | 10.3 mmol, 3.00 g | N1=CC(=CC=C1)[C@H]1C[C@@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O2
solvent | EtOH | 40 mL | CCO | C2H6O
product | (1R,3R)-3-(3-pyridyl)cyclopentylamine | 1.63 g, 97% | N1=CC(=CC=C1)[C@H]1C[C@@H](CC1)N | C10H14N2
